Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with colon cancer on chemotherapy p/w fever. 
Pt had home ___ today. Nurse took vitals following ___ and 
pt found to have temp 101. Pt's oncology fellow contacted and pt 
referred to the ED. Pt has no associated sxs. She denies HA, 
sore throat, eye, ear or nose sxs, cp/dyapnea/cough, n/v/d/abd 
pain, dysuria/hematuris. She has noticed no fevers or chills in 
the days preceeding.
.
In the ED: t 100, hr 109, bp112/75, r18 100% ra. chem 7 notable 
for k3.2, cr 1.2 (above baseline 0.9). U/A 13 wbcs, neg blood, 
nitr, bact. CXR: neg. lactate 1.8. Cxs drawn and pt given 
cefepime/vanc and admitted to OMED.
.
ROS: as above, otherwise complete ROS negative.
 
Past Medical History:
colon CA
HTN
GERD
 
Social History:
___
Family History:
Mother ___, living, has h/o colitis & lupus
Father, d of complications of MI at age ___
1 sibling, sister age ___, healthy
Paternal uncle had cancer, ___ whether prostate or colon

 
Physical Exam:
t98.2 95/64 p92 18 97%ra
NAD
eomi, mmm
neck supple
no ___
chest clear
rrr
abd benign
ext w/wp
neuro non-focal
no rash

Discharge exam:

 
Pertinent Results:
ANC 700
___ 10:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD
___ 10:55PM URINE  RBC-1 WBC-13* BACTERIA-NONE YEAST-NONE 
EPI-0
___ 08:07PM   COMMENTS-GREEN TOP
___ 08:07PM   LACTATE-1.8
___ 07:40PM   GLUCOSE-115* UREA N-27* CREAT-1.2* SODIUM-137 
POTASSIUM-3.2* CHLORIDE-104 TOTAL CO2-25 ANION GAP-11
___ 07:40PM   WBC-2.5* RBC-3.96* HGB-12.5 HCT-37.3 MCV-94 
MCH-31.4 MCHC-33.4 RDW-15.5
___ 07:40PM   NEUTS-28* BANDS-0 ___ MONOS-25* EOS-19* 
BASOS-0 ___ MYELOS-0
___ 07:40PM   PLT COUNT-169

urine culture no growth

blood cultures

CXR: ight-sided Port-A-Cath tip terminates in the proximal right 
atrium.  The
cardiac, mediastinal and hilar contours are normal.  The 
pulmonary vascularity
is normal.  Lungs are clear.  No pleural effusion or 
pneumothorax is present. 
There are no acute osseous abnormalities.
 


 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamterene-Hydrochlorothiazide (37.5/___) 1 CAP PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
neutropenic fever

Secondary diagnosis:
stage IIIA colon cancer on FOLFOX

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with a fever and low white 
blood cell count.  You received antibiotics for a presumed 
bacterial infection.  Urine culture remained negative, however 
you should complete these antibiotics for a 7 day course.  
Please see below for your follow up appointments.
 
Followup Instructions:
___